spice
* Differential Amplifier Netlist
* Voltage sources
? Missing component
V2 2 5 DC (V_CM - ΔV)
* Current source
I1 3 0 DC I_EE
* Resistor
RL 5 6 RL
* Transistors
Q1 4 3 3 NPN
Q2 5 7 3 NPN
* Load resistor
RL 6 5 RL
* Nodes
* 0: Ground
* 1: V_CM + ΔV Input
* 2: V_CM - ΔV Input
* 3: Common Emitter Node
* 4: Q1 Collector
* 5: Q2 Collector
* 6: Load Resistor
* P: Ground
.END
